US04276305
14.55 g of 1-(2-propynyloxy)-naphthoic acid 2-propynyl ester dissolved in 50 ml of absolute tetrahydrofuran are cautiously added at -10° C. under a nitrogen atmosphere to a suspension of 2.09 g of lithium aluminum hydride in 200 ml of absolute tetrahydrofuran. After completion of the addition is complete, the mixture is left to react at about 0° C. for a further 1 hour. To hydrolyze, water is cautiously added dropwise at -10° C. with stirring while the temperature is maintained at 0° C. or below. The mixture is filtered using a filter aid (Celite) and the filtrate is concentrated. The residue is dissolved in ethyl acetate and washed, in sequence, with 2 N hydrochloric acid solution, 10% potassium bicarbonate solution, semi-saturated and saturated sodium chloride solution. The residue is dried over sodium sulfate and evaporated. Pure [1-(2-propynyloxy)-2-naphthyl]methanol, m.p. 65°-68° C. (from hexane/ethyl acetate), is obtained by recrystallization. This material is reacted with cyclopropane carboxylic acid chloride in the procedure described in Example 2 to yield cyclopropane carboxylic acid [1-(2-propynyloxy)-2-naphthyl]methyl ester; nD20 =1.5902.

reactant | 1-(2-propynyloxy)-naphthoic acid 2-propynyl ester | 14.55 g | C(C#C)OC(=O)C1(CC=CC2=CC=CC=C12)OCC#C | C17H14O3
reactant | lithium aluminum hydride | 2.09 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | [1-(2-propynyloxy)-2-naphthyl]methanol | C(C#C)OC1=C(C=CC2=CC=CC=C12)CO | C14H12O2
